US08461161B2
A mixture of (1S)-1-(3-nitrophenyl)ethanamine (13.1 g, 79.4 mmol) and 10% palladium on carbon (0.75 g) in methanol (250 mL) was stirred vigorously under an atmosphere of hydrogen for 19 hours. After this time the mixture was filtered through a pad of Celite and the pad was washed with methanol (800 mL). The combined filtrates were concentrated under reduced pressure to give 3-[(1S)-1-aminoethyl]aniline as a brown solid (10.8 g, 100%).

reactant | (1S)-1-(3-nitrophenyl)ethanamine | 79.4 mmol, 13.1 g | [N+](=O)([O-])C=1C=C(C=CC1)[C@H](C)N | C8H10N2O2
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 3-[(1S)-1-aminoethyl]aniline | 10.8 g, 100% | N[C@@H](C)C=1C=C(N)C=CC1 | C8H12N2
